US09120785B2
To a solution of methyl trans-4-(1,3-thiazol-2-ylcarbonyl)cyclohexanecarboxylate (500 mg, 1.97 mmol) in methanol (20 mL) was added sodium borohydride (224 mg, 5.92 mmol) and the solution was stirred for one hour. The solution was then diluted with ethyl acetate and water. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product was purified by silica gel chromatography to afford methyl trans-4-[hydroxy(1,3-thiazol-2-yl)methyl]cyclohexanecarboxylate. MS ESI calc'd. for C12H18NO3S [M+H]+ 256. found 256. 1H NMR (500 MHz, DMSO-d6) δ 7.70 (d, J=3.2 Hz, 1H), 7.58 (d, J=3.2 Hz, 1H), 6.10 (d, J=5.2 Hz, 1H), 4.59 (t, J=5.1 Hz, 1H), 3.54 (s, 3H), 2.21-2.11 (m, 1H), 1.92-1.83 (m, 2H), 1.75-1.64 (m, 1H), 1.64-1.53 (m, 2H), 1.33-1.11 (m, 4H).

reactant | methyl trans-4-(1,3-thiazol-2-ylcarbonyl)cyclohexanecarboxylate | 1.97 mmol, 500 mg | S1C(=NC=C1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C12H15NO3S
reactant | sodium borohydride | 5.92 mmol, 224 mg | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | methyl trans-4-[hydroxy(1,3-thiazol-2-yl)methyl]cyclohexanecarboxylate | OC([C@@H]1CC[C@H](CC1)C(=O)OC)C=1SC=CN1 | C12H17NO3S
